US06596772B1
A mixture of neopentyl glycol bis(4-aminophenyl) ether (0.5 g, 1.75 mmol), triflic anhydride (0.65 mL) and sodium bicarbonate (0.59 g, 7 mmol) in DCM was stirred at rt overnight to give 1,3-bis(4-trifluoromethylsulfonamidophenoxy)-2,2-dimethylpropane. 1HNMR (300 MHz, DMSO-d6) δ 11.55 (s, br, 2H, 2×NH), 7.13 (d, J=9.15 Hz, 4H), 6.96 (d, J=9.15 Hz, 4H), 3.82 (s, 4H, 2×CH2), 1.07 (s, 6H, 2×CH3). MS-EI m/z 550 [M+].

reactant | neopentyl glycol bis(4-aminophenyl) ether | 1.75 mmol, 0.5 g | NC1=CC=C(C=C1)OCC(C)(COC1=CC=C(C=C1)N)C | C17H22N2O2
reactant | triflic anhydride | 0.65 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 7 mmol, 0.59 g | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,3-bis(4-trifluoromethylsulfonamidophenoxy)-2,2-dimethylpropane | FC(S(=O)(=O)NC1=CC=C(OCC(COC2=CC=C(C=C2)NS(=O)(=O)C(F)(F)F)(C)C)C=C1)(F)F | C19H20F6N2O6S2
